US08865736B2
3-[(4-Ethyl-1,3-benzothiazol-2-yl)methoxy]-2,6-difluorobenzenecarboxamide
Synthesised from 2,6-difluoro-3-hydroxybenzenecarboxamide and 2-(chloromethyl)-4-ethyl-1,3-benzothiazole according to Method B, scheme 2. Yield 17%, mp 184-186° C., HPLC-MS (method 1): m/z 349 [M+H]+, Rt=4.16 min.

reactant | 2,6-difluoro-3-hydroxybenzenecarboxamide | FC1=C(C(=CC=C1O)F)C(=O)N | C7H5F2NO2
reactant | 2-(chloromethyl)-4-ethyl-1,3-benzothiazole | ClCC=1SC2=C(N1)C(=CC=C2)CC | C10H10ClNS
product | 3-[(4-Ethyl-1,3-benzothiazol-2-yl)methoxy]-2,6-difluorobenzenecarboxamide | Yield 17% | C(C)C1=CC=CC2=C1N=C(S2)COC=2C(=C(C(=CC2)F)C(=O)N)F | C17H14F2N2O2S
